US07276516B2
1-(2-Fluoro-phenyl)-cyclobutanecarbonitrile
Slowly add NaH (922 mg, 23.0 mmol) to a solution of (2-fluorophenyl)-acetonitrile (1.27 mL, 9.95 mmol) in DMSO (40.0 mL). Stir the mixture at RT for 30 mins then add via cannula a solution of 1,3-dichloropropane (0.95 mL, 10.0 mmol) in DMSO (20 mL). After addition is complete stir at 75° C. for 5 h. Pour mixture over ice (60 g) and extract with Et2O (3×50 mL). Combine the organic solutions and wash with brine (50 mL), dry filter and concentrate. Purify the material by flash chromatography (using a linear gradient of 100% hexanes to 35% EtOAc/hexanes) to give the title compound (1.4 g, 80%) as a yellow oil. 1H NMR (400 MHz, CDCl3): δ 7.32 (m, 1H), 7.25 (dt, 1H, J=1.9, 8.0), 7.16 (dt, 1H, J=0.9, 7.5), 7.09 (ddd, 1H, J=1.2, 8.1, 10.7), 2.86 (m, 2H), 2.69 (m, 2H), 2.50 (m, 1H), 2.05 (m, 1H).

reactant | NaH | 23.0 mmol, 922 mg | [H-].[Na+]
reactant | (2-fluorophenyl)-acetonitrile | 9.95 mmol, 1.27 mL | FC1=C(C=CC=C1)CC#N | C8H6FN
reactant | 1,3-dichloropropane | 10.0 mmol, 0.95 mL | ClCCCCl | C3H6Cl2
solvent | DMSO | 40.0 mL | CS(=O)C | C2H6OS
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 1-(2-Fluoro-phenyl)-cyclobutanecarbonitrile | 1.4 g, 80% | FC1=C(C=CC=C1)C1(CCC1)C#N | C11H10FN
